US07304081B2
Step 3 substitute. 1-[6-(benzyloxy)pyridin-3-yl]cyclopropanecarboxylic acid
A mixture of ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate (45.1 mg, 0.000200 mol), benzyl alcohol (0.50 mL, 0.0048 mol) and sodium hydride (9.50 mg, 0.000238 mol) was irradiated by microwave at 150° C. for 15 minutes. After cooling, additional sodium hydride (9.5 mg) was added to the mixture. The mixture then was irradiated by microwave at 150° C. for 15 minutes. Ethyl acetate (5 mL) was added and the resulting mixture was washed with water and brine successively. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by Combiflash with ethyl acetate/heaxane to give the desired product.

reactant | ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate | 0.000200 mol, 45.1 mg | ClC1=CC=C(C=N1)C1(CC1)C(=O)OCC | C11H12ClNO2
reactant | benzyl alcohol | 0.0048 mol, 0.50 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 0.000238 mol, 9.50 mg | [H-].[Na+]
reactant | sodium hydride | 9.5 mg | [H-].[Na+]
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 1-[6-(benzyloxy)pyridin-3-yl]cyclopropanecarboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C1(CC1)C(=O)O | C16H15NO3
